US08486979B2
5-(2-chloropyridin-4-yl)-3-(pyridin-3-yl)-1,2,4-oxadiazole
The title compound was prepared according to the procedure of Example 1 using N′-hydroxynicotinimidamide (Aldrich) and 2-chloroisonicotinoyl chloride (Maybridge). 1H NMR (300 MHz, DMSO-d6) δ 7.68 (ddd, J=7.9, 4.8, 0.8 Hz, 1 H), 8.16 (dd, J=5.1, 1.4 Hz, 1 H), 8.23 (dd, J=1.5, 0.8 Hz, 1 H), 8.42-8.54 (m, 1 H), 8.77 (dd, J=5.1, 0.7 Hz, 1 H), 8.84 (dd, J=4.7, 1.7 Hz, 1 H), 9.28 (dd, J=2.2, 0.8 Hz, 1 H) ppm; MS (DCI/NH3) m/z 259 (M+H)+, 261 (M+H)+.

reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | 2-chloroisonicotinoyl chloride | ClC=1C=C(C(=O)Cl)C=CN1 | C6H3Cl2NO
reactant | NH3 | N | H3N
product | 5-(2-chloropyridin-4-yl)-3-(pyridin-3-yl)-1,2,4-oxadiazole | ClC1=NC=CC(=C1)C1=NC(=NO1)C=1C=NC=CC1 | C12H7ClN4O
